US07435837B2
Treatment of (±)-(4-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (5.0 g, 13.05 mmol) with 2-(trifluoromethyl)phenylboronic acid (3.72 g, 17.57 mmol), dichlorobis(tri-o-tolylphosphine)-palladium(II) (0.512 g, 0.652 mmol), and potassium carbonate (4.5 g, 32.62 mmol) generally according to the procedure described for Intermediate 37 provided 4.5 g (77%) of (±)-{4-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methyl 4-methylbenzenesulfonate as a yellow oil. Treatment of (±)-{4-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methyl 4-methylbenzenesulfonate (4.3 g, 9.59 mmol) with sodium azide (2.5 g, 38.46 mmol) generally according to the procedure described for Intermediate 98 gave 2.88 g (94%) of (±)-{4-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methyl azide. Treatment of the azide with palladium on carbon (0.28 g, 10 wt. %) generally according to the procedure described for Example 1 provided 2.46 g (83%) of (±)-1-{4-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methanamine as a white solid, hydrochloride salt. mp 213-215° C.; Anal. calcd. for C16H14F3NOHCl: C, 58.28; H, 4.59; N, 4.25. Found: C, 58.13; H, 4.65; N, 4.13.

reactant | (±)-{4-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methyl 4-methylbenzenesulfonate | 9.59 mmol, 4.3 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=CC=C2)C2=C(C=CC=C2)C(F)(F)F | C23H19F3O4S
reactant | sodium azide | 38.46 mmol, 2.5 g | [N-]=[N+]=[N-].[Na+]
product | (±)-{4-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methyl azide | 2.88 g, 94% | FC(C1=C(C=CC=C1)C1=CC=CC2=C1CC(O2)CN=[N+]=[N-])(F)F | C16H12F3N3O
